US08293909B2
To a solution containing 4-(benzyloxy)pyridin-3-amine (6.2 g, 15.8 mmol), triethylamine (11 mL, 79 mmol), and dichloromethane (163 mL) was added methanesufonylchloride (1.2 mL, 15.8 mmol) in dichloromethane (100 mL) drop wise over 90 min. The solution was maintained at room temperature for 6 h and concentrated to afford N-(4-(benzyloxy)pyridin-3-yl)methanesulfonamide which was used without further purification. LCMS: retention time: 1.305 min. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters-Xterra, 5 micron, C18, 4.6×30 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 4 min, a hold time of 1 min, and an analysis time of 5 min where solvent A was 5% CH3CN/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% CH3CN/10 mM ammonium acetate. MS data was determined using a Micromass Platform for LC in electrospray mode. m/z 279 (MH+).

reactant | 4-(benzyloxy)pyridin-3-amine | 15.8 mmol, 6.2 g | C(C1=CC=CC=C1)OC1=C(C=NC=C1)N | C12H12N2O
reactant | triethylamine | 79 mmol, 11 mL | C(C)N(CC)CC | C6H15N
reactant | methanesufonylchloride | 15.8 mmol, 1.2 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 163 mL | ClCCl | CH2Cl2
product | N-(4-(benzyloxy)pyridin-3-yl)methanesulfonamide | C(C1=CC=CC=C1)OC1=C(C=NC=C1)NS(=O)(=O)C | C13H14N2O3S
